US04588782
In a 100-ml of toluene was dissolved 5 g of the polymer produced above. The resulting solution was subjected to high speed centrifugation at 10,000 rpm to separate it into a toluene-soluble portion (A) and a toluene-insoluble portion (I). The toluene-insoluble portion was 20.2% of the original polymer. Methanol was added in small portions to the toluene-soluble portion to precipitate part of the polymer of the toluene-soluble portion and thus Sample B was obtained. Then, a large amount of methanol was added to the residue to obtain Sample C. Thus, the toluene-soluble portion of the original polymer was subjected to fractional precipitation to obtain Samples B and C. Incidentally, the styrene-butadiene-styrene block copolymer produced in the first step of polymerization was named "Sample S".

reactant | methanol | CO | CH4O
reactant | toluene | 100-ml | C1(=CC=CC=C1)C | C7H8
product | styrene-butadiene-styrene | C=CC1=CC=CC=C1.C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/2C8H8.C4H6/c2*1-2-8-6-4-3-5-7-8;1-3-4-2/h2*2-7H,1H2;3-4H,1-2H2
